2104-06-11 07:04:00 Physician Resident Progress Note
Chief Complaint: 69F with hypoxia and incidentally discovered breast
   mass
   24 Hour Events:
   KUB showed dilated loops of large bowel c/w obstruction vs ileus, given
   a bisacodyl suppository for decompression
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash; Nausea/[**Last Name (un) **]
   Sulfonamides
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-6-11**] 03:00 AM
   Other medications:
   Cipro
   Prednisone
   Nebs
   psych meds
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-11**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 87 (83 - 103) bpm
   BP: 131/59(73) {115/56(73) - 150/70(89)} mmHg
   RR: 18 (16 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    296 mL
                                                                     67 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                     56 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    296 mL
                                                                     67 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: 7.33/55/54/30
   Physical Examination
   General Appearance: Overweight / Obese, breathing through pursed lips
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Wheezes : )
   Abdominal: Profoundly distended, tympanitic, NTTP
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   593 K/uL
   8.1 g/dL
   1.5
   27
   4.4
   57
   105
   140
   27.5 %
   21.6 K/uL
        [image002.jpg]
                             [**2104-6-11**]  05:09 AM
   WBC
   21.6
   Hct
   27.5
   Plt
   593
   Other labs: ALT / AST:52/56, Alk Phos / T Bili:238/0.3, Lactic Acid:1.2
   mmol/L
   Fluid analysis / Other labs: CK: 364
   Imaging: KUB:
   Very limited views of the abdomen, however there are multiple dilated
   loops of
   large bowel. Findings consistent with obstruction or ileus. If clinical
   concern, suggest short interval radiographs or CT as d/w Dr [**Last Name (STitle) 680**] on
   the day
   of study.
   Microbiology: Urine cultures NGTD
   Assessment and Plan
   69F with hypoxemic respiratory distress
   Respiratory distress: Likely a mixed picture, CTPA negative for PE or
   any parenchymal abnormality, but does show tracheobronchial malacia.
   PFTs show severe restrictive lung disease, and distended abdomen is
   also contributing to this.  Her exam is also c/w underlying obstruction
   as she is breathing through pursed lips and has wheezes.  Also may have
   some underlying OSA.
   -TTE with a bubble study to evaluate for a PFO
   -Prednisone at 60mg daily
   -Albuterol and ipatropium nebs
   -considering a trial of NPPV
    Leukocytosis: in the setting of a positive urinalysis
   -Treating with cipro
   -Await cultures and sensitivities
   Transaminitis: Likely due to underlying liver mass (?metastatic lesion)
   -Continue to monitor
   Elevated CK: Normal cardiac isoenzymes, in the setting of a fall,
   adequately fluid resuscitated
   -continue to monitor
   DM: On a high dose of 70/30 at home
   -ISS for now, add back home regimen as needed
   Bony pain: likely from bony metastatic lesions
   -NSAIDS/toradol prn, avoiding sedating meds
   Breast mass: Head CT negative, with ? mets to bone and liver
   -WIll need a tissue diagnosis via either IR vs. surgery
   HTN:
   -Holding  lisinopril
   #  Psych: continue outpt meds.
   - Mild confusion: check CT head to r/o mets to brain.
   - Code status: DNR/DNI per prior documented discussions
   ICU Care
   Nutrition:
   Comments: Regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2104-6-10**] 03:43 PM
   20 Gauge - [**2104-6-10**] 03:44 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2104-06-11 10:14:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 y/o F with dm, hyperlipidemia, schizoaffective d/o s/p fall found to
   be hypoxemic w/ resp distress:   w/u reveals no PE but large R breast
   mass with, axillary nodes,  rib fx (lytic lesions) and liver mets.
   24 Hour Events:
   KUB --> large dilated loops of bowel, no clear transition point,
   minimal stool, ? obstruction vs ileus
   cipro started for + u/a, cx pending
   head ct
 no brain mass, bleed
   large BM
                                 History obtained from Patient, ho
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash; Nausea/[**Last Name (un) **]
   Sulfonamides
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-6-11**] 03:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-11**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36
C (96.8
   HR: 91 (83 - 103) bpm
   BP: 134/55(73) {115/55(73) - 150/70(89)} mmHg
   RR: 19 (16 - 29) insp/min
   SpO2: 94% (high flow mask)
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    296 mL
                                                                     96 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                     56 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
                                                            incontinent mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    296 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.38/49/81.[**Numeric Identifier 218**]/27/2
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes,
   improved c/t yesterday : ), prolonged expiratory phase, no stridor
   Abdominal: Soft, Non-tender, Bowel sounds present, + Distended, No(t)
   Tender:
   Extremities:b/l edema trace -1 +
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed, more somnolent but
   easily arousable
   Labs / Radiology
   8.1 g/dL
   593 K/uL
   164 mg/dL
   1.5 mg/dL   (1.3)
   27 mEq/L
   4.4 mEq/L
   57 mg/dL
   105 mEq/L
   140 mEq/L
   27.5 %
   21.6 K/uL
        [image002.jpg]
                             [**2104-6-11**]  05:09 AM
                             [**2104-6-11**]  07:25 AM
   WBC
   21.6 (18)
   Hct
   27.5
   Plt
   593
   Cr
   1.5
   TCO2
   30
   Glucose
   164
   Other labs: PT / PTT / INR:14.1/25.9/1.2, CK / CKMB / Troponin-T:364//,
   ALT / AST:52/56, Alk Phos / T Bili:238/0.3, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:4.2 %, Mono:3.7 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.4 g/dL, LDH:311 IU/L, Ca++:10.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.1 mg/dL
   Imaging: KUB-
   ct head--no mass, bleed, acute process
   cxr--no new focal findings, small lung volumes, shift to r, minimal
   rotation
   Microbiology: urine cx pending
   blood to be drawn
   Assessment and Plan
   69 y/o F w/ dm, hyperlipidemia, schizoaffective d/o s/p fall found to
   be hypoxemic:   w/u reveals no PE but large R breast mass with,
   axillary nodes,  rib fx (lytic lesions) and liver mets.
   # Resp distress
   no evidence of PE on CTA
   overall appears more comfortable, continues to have large A-a grad
   ---seems multifactorial: TBM, restrictive lung dz, with significant abd
   distention, mild CO2 retention with wheezes on exam, probable OSA with
   macroglossia.
   ? PFO contributing.
   ? neuromuscular weakness from paraneoplastic syndrome (though w/o co2
   elevation) ? diaphragmatic involvement (hard to assess abd movt due to
   distention)
   ? splinting from rib f x, chest pain
   ? lymphangetic spread
   -- NIPPV as needed
   -- TTE with bubble.
   -- bowel regimen after checking KUB to help w/ bowel distention
   -- continue empiric steroris (pursed lip breathing, wheeze) though
   decrease does
 change to iv solumedrrol given somnolence, --  nebs
   -- appears asx from ? TBM component, no stridor or co2 retention
   #  Leukocytosis: Dirty UA. Empiric Rx with Cipro. (change to IV) f/u
   UCx, blood cx
   Additional bump ? [**2-23**] steroids
   Remains af
   #abml LFTs: likely due to liver and bone mets,
    check GGT and differentiate alk phos
   trend labs
   # elevated cpk
likely from fall
   Nl cards [**Last Name (un) **], trending down
   #  DM: NPO  [**2-23**] somnolence
  half dose NPH + RISS with BGT.
   #  Sternal pain: likely  from bony mets/ rib fx
   Hold toradol now with increased cr
   tylenol for pain
   Avoid sedating meds given somnolence.
   # Onc--Breast mass: Likely metastatic based on radiologic findings.
   Head ct neg for mets
   Will need tissue diagnosis and onc eval after recovery from acute
   distress.
   IR regarding breat bx
   Palliative service
    # ARF
 received lasix on floor X 1, cta with contrast, toradol
   yesterday for pain
now cr increasing
   avoid nsaids
   gentle hydration with maintenance ivf
   urine lytes
   # HTN: lisinopril held
   # Psych: continue outpt meds.
   ICU Care
   Nutrition:
   NPO, maintenance fluids
   Glycemic Control:  Regular insulin sliding scale, Comments: nph
   Lines:
   18 Gauge - [**2104-6-10**] 03:43 PM
   20 Gauge - [**2104-6-10**] 03:44 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Start  HSB given steroids and npo for mental status
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2104-06-12 11:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 y/o F w/ dm, hyperlipidemia, schizoaffective d/o s/p fall found to
   be hypoxemic:   w/u reveals no PE but large R breast mass with,
   axillary nodes,  rib fx (lytic lesions) and liver mets.
   24 Hour Events:
 BLOOD CULTURED - At [**2104-6-11**] 12:05 PM
 BLOOD CULTURED - At [**2104-6-11**] 05:45 PM
   liver bx this am
   fena 0.1--> fluids
   more alert, breathing better, + BM
   echo--> tiny peric effusion, no tamponade, nl ef
   History obtained from HO
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash; Nausea/[**Last Name (un) **]
   Sulfonamides
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2104-6-11**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-6-11**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2104-6-12**] 01:04 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-12**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 92 (89 - 95) bpm
   BP: 127/63(79) {114/53(69) - 144/68(80)} mmHg
   RR: 22 (17 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,522 mL
                                                                    855 mL
   PO:
             TF:
   IVF:
                                                                  1,522 mL
                                                                    855 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    740 mL
   Urine:
                                                                    920 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    602 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, arousable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   decreased, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   574 K/uL
   166 mg/dL
   1.2 mg/dL (1.5)
   25 mEq/L
   4.4 mEq/L
   55 mg/dL
   107 mEq/L
   140 mEq/L
   27.7 %
   18.4 K/uL
        [image002.jpg]
                             [**2104-6-11**]  05:09 AM
                             [**2104-6-11**]  07:25 AM
                             [**2104-6-12**]  04:59 AM
   WBC
   21.6
   18.4
   Hct
   27.5
   27.7
   Plt
   593
   574
   Cr
   1.5
   1.2
   TCO2
   30
   Glucose
   164
   166
   Other labs: PT / PTT / INR:14.1/24.3/1.2, CK / CKMB / Troponin-T:206//,
   ALT / AST:53/72, Alk Phos / T Bili:311/0.3, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:4.2 %, Mono:3.7 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.2 g/dL, LDH:487 IU/L, Ca++:9.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.5
   mg/dL
   Imaging: tte--small peric eff, no tamponade, nl ef
   nl rv
   Microbiology: no micro--neg urine
   Assessment and Plan
   69 y/o F w/ dm, hyperlipidemia, schizoaffective d/o s/p fall found to
   be hypoxemic, resp distress:   w/u reveals no PE but large R breast
   mass with, axillary nodes,  rib fx (lytic lesions) and liver mets.
   # Resp distress
no evidence of PE on CTA, continues to have large A-a
   grad
   multifactorial: TBM, restrictive lung dz, with significant abd
   distention, mild CO2 retention with wheezes on exam, probable OSA with
   macroglossia.
   ? neuromuscular weakness from paraneoplastic syndrome (though w/o co2
   elevation) ? diaphragmatic involvement (hard to assess abd movt due to
   distention)
   ? splinting from rib f x, chest pain
   ? lymphangetic spread
   -- NIPPV as needed
   -- TTE with bubble without PFO
   -- bowel regimen after checking KUB to help w/ bowel distention
   -- continue empiric steroris (pursed lip breathing, wheeze) though
   decrease does
 change to iv solumedrrol given somnolence,--reduce dose
   --  nebs
   -- appears asx from ? TBM component, no stridor or co2 retention, NPPV
   #  Leukocytosis:
   Empiric Rx with Cipro X 7 days, f/u cxs
   Additional bump ? [**2-23**] steroids
   Remains af
   #abnl LFTs: likely due to liver and bone mets,
    check GGT and differentiate alk phos
   trend labs
   #  DM: NPH, RSSI
   #  Sternal pain: likely  from bony mets/ rib fx
   Hold nsaids given renal fx
   tylenol for pain
   Avoid sedating meds given somnolence.
   # Onc--Breast mass: Likely metastatic based on radiologic findings.
   Head ct neg for mets
   s/p liver bx this am, tumor markers elevated (t and cross, folloow h
   and h)
   Palliative service following
    # ARF
 received lasix on floor X 1, cta with contrast, toradol
   yesterday for pain
   Pre-renal
improving with hydration
   avoid nsaids
   gentle hydration with maintenance ivf
 PO diet
   # HTN: lisinopril held
   # Psych: continue outpt meds.
   ICU Care
   Nutrition:
   Comments: diabetic diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-6-10**] 03:43 PM
   20 Gauge - [**2104-6-10**] 03:44 PM
   Prophylaxis:
   DVT: SQ UF Heparin, boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :monitor in icu after bx
   Total time spent: 40 minutes

2104-06-13 06:57:00 Physician Resident Progress Note
Chief Complaint: 69F with new dx of metastatic breast CA presents with
   multifactorial hypoxemia
   24 Hour Events:
 LIVER BIOPSY - At [**2104-6-12**] 10:00 AM
   Done in ultrasound
   - Had liver biopsy, Hct stable on q8 checks thereafter
   - Changed to PO steroids
   - Tolerating PO's so d/c'd maintenence fluids.
   - Gave IV morphine for pain which patient tolerated well but had little
   effect on pain/respiratory status.
   - Onc consult once have tissue.
   - PalCare agrees with IV morphine for pain control as tolerated from
   respiratory stand point.
   - Outpatient Psych would like to/be happy to discuss/deliver diagnosis
   when pathology returned.
   - Increasing tachypnea overnight - maintaing sats in low 90's but with
   wheezes and poor air movement, ABG 7.39/51/75, CXR no change, increased
   nebs to q3H standing.
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash; Nausea/[**Last Name (un) **]
   Sulfonamides
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2104-6-12**] 09:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2104-6-12**] 10:30 AM
   Pantoprazole (Protonix) - [**2104-6-12**] 09:00 PM
   Morphine Sulfate - [**2104-6-13**] 01:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-13**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 107 (88 - 109) bpm
   BP: 133/79(86) {114/54(68) - 149/79(90)} mmHg
   RR: 17 (17 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  2,065 mL
                  PO:
                                                                  1,070 mL
                  TF:
   IVF:
                                                                    995 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                    360 mL
   Urine:
                                                                  1,565 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    500 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.39/51/75/28/4
   PaO2 / FiO2: 750
   Physical Examination
   General Appearance: Overweight / Obese, in mild resp. distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic), regular
   rhythm, normal rate
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Distended, No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   476 K/uL
   8.6 g/dL
   220 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.4 mEq/L
   47 mg/dL
   110 mEq/L
   145 mEq/L
   27.4 %
   16.6 K/uL
        [image002.jpg]
                             [**2104-6-11**]  05:09 AM
                             [**2104-6-11**]  07:25 AM
                             [**2104-6-12**]  04:59 AM
                             [**2104-6-12**]  02:17 PM
                             [**2104-6-12**]  10:46 PM
                             [**2104-6-13**]  12:46 AM
                             [**2104-6-13**]  04:31 AM
   WBC
   21.6
   18.4
   16.6
   Hct
   27.5
   27.7
   28.6
   28.3
   27.4
   Plt
   593
   574
   476
   Cr
   1.5
   1.2
   1.2
   TCO2
   30
   32
   Glucose
   164
   166
   220
   Other labs: PT / PTT / INR:14.1/24.3/1.2, CK / CKMB / Troponin-T:206//,
   ALT / AST:58/64, Alk Phos / T Bili:324/0.4, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:4.2 %, Mono:3.7 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:451 IU/L, Ca++:10.0 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   69F with new dx of metastatic breast CA presents with  multifactorial
   hypoxemia
   1. Respiratory distress: Multifactorial: tracheobronchial malacia,
   restrictive/obstructive lung dz, OSA, abdominal distention, splinting
   from pain.  CT negative for PE, Echo negative for PFO.  Required an
   increase in neb frequency overnight with slightly worsening resp.
   distress.  ABG largely unchanged with minor increase in CO2/ decrease
   in O2
   -dedicated tracheal CT scan to evaluate TBM
   -Supplemental O2 prn
   -Nebs and prednisone
   -Bowel regimen
   -pain control
   -DNI
   2. UTI: likely cause of leukocytosis with positive UA, despite
   unrevealing cultures.  Leukocytosis trending down with abx.
   -Day [**4-28**] of cipro
   3. Breast mass: ? metastatic breast CA with lesions in the liver and
   bone, with elevated liver enzymes and GGT.  Palliative care following.
   Had IR guided bx yesterday, with stable hematocrits afterwards.   CEA,
   CA 27.29 elevated, CA [**15**]-9 wnl.
   -Await results of liver biopsy
   -Will involve onc when there is a tissue dx
   -Palliative care following
   4. ARF: Urine osms elevated, with normal urine sodium.  FeNA reflects
   pre-renal failure.  Cr stable at 1.2
   -encourage po fluids
   -monitor creatinine
   5. Elevated CPK: trending down
   -continue to monitor, encourage IV fluids
   6. Pain: per palliative care recs, getting IV morphine with good result
   -continue IV morphine
   7. DM
   -Home regimen of NPH 74 qam, 34 qpm
   -ISS
   8. HTN
   -lisinopril held with elevated cr
   9. Schizoaffective d/o
   -home psych meds
   ICU Care
   Nutrition:
   Comments: Diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2104-6-10**] 03:43 PM
   20 Gauge - [**2104-6-10**] 03:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2104-06-13 11:13:00 Physician Attending Progress Note
Chief Complaint:  resp distress, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 y/o F w/ dm, hyperlipidemia, schizoaffective d/o s/p fall
   transferred to ICU for hypoxemia, resp distress.
   Found to have  large R breast mass with axillary nodes,  rib fx (lytic
   lesions) and liver lesions.
   24 Hour Events:
 LIVER BIOPSY - At [**2104-6-12**] 10:00 AM
   Done in ultrasound
   h/h stable
   solumedrol changed to PO prednisone
   palliative care c/s--> iv morphine for pain
   tumor markers sent per onc
   increasing tachypnea overnight
 wheezy, nebs increased to Q 3 hrs-->
   improved  ,  crx unchanged, abg --> 7.39/51/75  on  (5L) + 40% FT
   History obtained from Patient, ho
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash; Nausea/[**Last Name (un) **]
   Sulfonamides
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2104-6-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-6-12**] 09:00 PM
   Morphine Sulfate - [**2104-6-13**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-13**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 104 (88 - 109) bpm
   BP: 147/59(80) {114/54(68) - 149/79(90)} mmHg
   RR: 30 (17 - 31) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
                  Total In:
                                                                  2,065 mL
                                                                    600 mL
   PO:
                                                                  1,070 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    995 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                    690 mL
   Urine:
                                                                  1,565 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    500 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: 7.39/51/75/28/4
   PaO2 / FiO2: 750
   Physical Examination
   General Appearance: Overweight / Obese, tachypneic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, no insp wheeze or stridor
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), (Murmur: No(t)
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : ), (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: purposeful
   Labs / Radiology
   8.6 g/dL
   476 K/uL
   220 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.4 mEq/L
   47 mg/dL
   110 mEq/L
   145 mEq/L
   27.4 %
   16.6 K/uL
        [image002.jpg]
                             [**2104-6-11**]  05:09 AM
                             [**2104-6-11**]  07:25 AM
                             [**2104-6-12**]  04:59 AM
                             [**2104-6-12**]  02:17 PM
                             [**2104-6-12**]  10:46 PM
                             [**2104-6-13**]  12:46 AM
                             [**2104-6-13**]  04:31 AM
   WBC
   21.6
   18.4
   16.6
   Hct
   27.5
   27.7
   28.6
   28.3
   27.4
   Plt
   593
   574
   476
   Cr
   1.5
   1.2
   1.2
   TCO2
   30
   32
   Glucose
   164
   166
   220
   Other labs: PT / PTT / INR:14.1/24.3/1.2, CK / CKMB / Troponin-T:206//,
   ALT / AST:58/64, Alk Phos / T Bili:324/0.4, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:4.2 %, Mono:3.7 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:451 IU/L, Ca++:10.0 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.5 mg/dL
   Imaging: cxr -- small vol, rotated, gastric bubble, no acute change
   Microbiology: urine cx contaminants
   bl ngtd
   Assessment and Plan
   69 y/o F w/ dm, hyperlipidemia, schizoaffective d/o s/p fall
   transferred to ICU for hypoxemia, resp distress.
   Found to have  R breast mass with axillary nodes,  rib fx (lytic
   lesions) and liver mets.
   Respiratory status remains tenuous , likely multifactorial, but
   continues to havce high A-a gradient.
   Primary issues remain:
   # Resp distress
   Appears to be multifactorial:  no ev of pe on cta
   ? TBM, restrictive lung dz, with significant abd distention, mild CO2
   retention with wheezes on exam, probable OSA with macroglossia.
   ? neuromuscular weakness from paraneoplastic syndrome (though w only
   min CO2 elevation) ? diaphragmatic involvement (hard to assess abd movt
   due to distention)
   ? splinting from rib f x, chest pain likely contributing
   Concerned also for possible lymphangetic spread from what appears to be
   advanced malignancy, (though not obvious per recent ct chest)
   -- dedicated tracheal CT to better assess TBM, consider IP consult,
   consider trial of  NPPV
   -- hob elevated to assist with breathing and abd distention/restriction
   -- bowel regimen fro abd distention
   -- empiric steriods (pursed lip breathing, wheeze)
> continue 40 pred
   without wean at this time, as still wheezy
   -- nebs
>increase interval to q 3
   -- morphine for rib pain as splinting likely contribtuing
   # Onc--Breast mass, likely metastatic based on radiologic findings.
   Head ct neg for mets
   s/p liver bx , await path results
   tumor markers elevated
   Palliative service following
   Onc c/s after tissue dx
    # ARF
   Pre-renal
> cr improving with hydration
   avoid nsaids
   #  Leukocytosis/ uti
   Empiric Rx with Cipro X 7 days (foley) for UTI
   Remains af
   #  Sternal pain: likely  from bony mets/ rib fx
   Hold nsaids given renal fx
   Morphine for pain
   #abnl LFTs: likely [**2-23**] liver and bone mets,
   trending
   #  DM: NPH, RSSI
   On steroids
   # HTN: lisinopril held, consider reatraing tomorrow, bp stable
   # Psych: continue outpt meds.
   ICU Care
   Nutrition:
   Comments: diabetic diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-6-10**] 03:43 PM
   20 Gauge - [**2104-6-10**] 03:44 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU  tenuous resp status
   Total time spent: 40 minutes
   Patient is critically ill

2104-06-14 06:39:00 Physician Resident Progress Note
Chief Complaint: 69F with new dx of metastatic breast CA presents with
   multifactorial hypoxemia
   24 Hour Events:
 SPUTUM CULTURE - At [**2104-6-13**] 04:03 PM
    pt. induced for cytologic exam, could not tolerate
   -Preliminary biopsy results showing breast adenocarcinoma
   -Dedicated tracheal films showing TBM, [**Name (NI) 167**] [**Name2 (NI) **] about stent
   placement, they do not feel that it is indicated in the acute care
   setting, and unlikely contributing to her overal respiratory picture.
   We asked the radiologist to comment on lymphangitic spread.
   -Spoke with patient's social worker from [**Name (NI) 590**] community mental
   health center, they would like to be present for medical decision, I
   left detailed note in medivision
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Codeine
   Rash; Nausea/[**Last Name (un) **]
   Sulfonamides
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2104-6-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2104-6-13**] 08:00 AM
   Pantoprazole (Protonix) - [**2104-6-13**] 06:00 PM
   Heparin Sodium - [**2104-6-14**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-14**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 100 (92 - 106) bpm
   BP: 144/57(79) {124/41(64) - 157/69(84)} mmHg
   RR: 17 (15 - 31) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
                  Total In:
                                                                  1,920 mL
                                                                    250 mL
   PO:
                                                                  1,920 mL
                                                                    250 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    750 mL
   Urine:
                                                                  1,510 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    410 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   both inspiratory and expiratory wheezes), Poor inspiratory effort
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   476 K/uL
   8.5 g/dL
   252 mg/dL
   0.9 mg/dL
   28 mEq/L
   5.0 mEq/L
   38 mg/dL
   106 mEq/L
   142 mEq/L
   27.8 %
   17.4 K/uL
        [image002.jpg]
                             [**2104-6-11**]  05:09 AM
                             [**2104-6-11**]  07:25 AM
                             [**2104-6-12**]  04:59 AM
                             [**2104-6-12**]  02:17 PM
                             [**2104-6-12**]  10:46 PM
                             [**2104-6-13**]  12:46 AM
                             [**2104-6-13**]  04:31 AM
                             [**2104-6-14**]  04:00 AM
   WBC
   21.6
   18.4
   16.6
   17.4
   Hct
   27.5
   27.7
   28.6
   28.3
   27.4
   27.8
   Plt
   593
   574
   476
   476
   Cr
   1.5
   1.2
   1.2
   0.9
   TCO2
   30
   32
   Glucose
   164
   166
   220
   252
   Other labs: PT / PTT / INR:14.1/24.3/1.2, CK / CKMB / Troponin-T:206//,
   ALT / AST:58/64, Alk Phos / T Bili:324/0.4, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:4.2 %, Mono:3.7 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:451 IU/L, Ca++:10.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.3 mg/dL
   Fluid analysis / Other labs: Venous gas: 7.32/67/39
   Imaging: CT chest
   1. Suboptimal study for evaluation of tracheobronchial malacia due to
   poor
   inspiratory effort. The tracheobronchial tree is relatively collapsed
   in both inspiration and expiration phase of imaging. There are no
   obvious endotracheal or endobronchial lesions.
   2. Right hilar and right axillary adenopathy with right breast mass as
   previously described. There are also multiple lucent lesions involving
   the
   left humeral head, lower cervical vertebral bodies, and right-sided
   ribs,
   which may indicate osseous metastases from a potential breast
   carcinoma. A bone scan for further evaluation of extent of osseous
   metastases is recommended.
   3. Multiple low-attenuation hepatic lesions, incompletely evaluated in
   the
   non-contrast setting. These may represent metastatic lesions and
   further evaluation with a contrast-enhanced scan is recommended. Please
   note that these lesions were not readily apparent on the study from
   yesterday due to early arterial phase of imaging in a dedicated PE
   protocol as well as incomplete coverage of the liver in the
   contrast-enhanced sections.
   4. There is no definite evidence of lymphangitic tumor spread; however,
   the evaluation of the pulmonary parenchyma and interlobular septa are
   significantly limited due to respiratory motion.
   Microbiology: Blood cultures from [**6-11**]: NGTD
   Assessment and Plan
   69F with new dx of metastatic breast CA presents with  multifactorial
   hypoxemia
   1. Respiratory distress: Multifactorial: tracheobronchial malacia,
   restrictive/obstructive lung dz, OSA, abdominal distention, splinting
   from pain, possible lymphangitic spread of cancer to lung.  CT negative
   for PE, Echo negative for PFO.  Dedicated CT to evaluate TBM and
   lymphangitic spread was not optimal due to poor inspiratory effort,
   however, it did show multiple ?bony mets.  Induced sputum for cytology
   was unsuccessful.  VBG today 7.32/67/39
   -consider a trial of CPAP for CO2 retention, checking an ABG
   -Continue nebs, and no change in steroid dose for now
   -Aggressive bowel regimen
   -Pain control with morphine
   2. UTI:
   -Day [**5-28**] of cipro
   3. Breast mass: Preliminary pathology showing metastatic breast CA to
   the liver and bone.  CEA, CA 27.29 elevated, CA [**15**]-9 wnl.
   -Await final results of liver biopsy, likely tuesday
   -Will involve onc when there is a tissue dx
   -Palliative care following
   4. Leukocytosis: in the setting of steroids, infectious w/u otherwise
   unrevealing, no fevers.
   -continue to monitor
   6. Pain: per palliative care recs, getting IV morphine with good result
   -continue IV morphine
   7. DM
   -Increased home regimen of NPH 78 qam, 42 qpm for increasing ISS needs
   during the day
   -ISS
   8. HTN
   -Can restart lisinopril today as cr finally normalized
   9. Schizoaffective d/o
   -home psych meds
   -keep in touch with outpatient SW and psychiatrist
   ICU Care
   Nutrition:
   Comments: regular diabetic diet
   Glycemic Control:  Regular insulin sliding scale, Comments: NPH
   Lines:
   18 Gauge - [**2104-6-10**] 03:43 PM
   20 Gauge - [**2104-6-10**] 03:44 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2104-06-14 08:01:00 Physician Attending Progress Note
Chief Complaint: resp distress, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 y/o F w/ dm, hyperlipidemia, schizoaffective d/o s/p fall
   transferred to ICU for hypoxemia, resp distress.
   Found to have  large R breast mass with axillary nodes,  rib fx (lytic
   lesions) and liver lesions.
   24 Hour Events:
 SPUTUM CULTURE - At [**2104-6-13**] 04:03 PM
    pt. induced for cytologic exam  NPC.
   Prelim results of liver biopsy: Ca breast. Ab stain pend.
   Social situation is very supervised in elder care home. All decisions
   made by her SW and her psychiatrist.
   CT neck/chest + for TBM, but no acute Rx per IP. Cannot r/o
   lymphangitic spread of cancer due to poor study. Not a candidate for
   any way to evaluate lung tissue.
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash; Nausea/[**Last Name (un) **]
   Sulfonamides
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2104-6-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2104-6-13**] 08:00 AM
   Pantoprazole (Protonix) - [**2104-6-13**] 06:00 PM
   Heparin Sodium - [**2104-6-14**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Slept well
   Flowsheet Data as of  [**2104-6-14**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 101 (92 - 106) bpm
   BP: 97/67(72) {97/41(64) - 157/69(84)} mmHg
   RR: 17 (15 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
                  Total In:
                                                                  1,920 mL
                                                                    250 mL
   PO:
                                                                  1,920 mL
                                                                    250 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    750 mL
   Urine:
                                                                  1,510 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    410 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: 7.32/67/39
   Physical Examination
   General Appearance: Overweight / Obese, tachypneic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, no insp wheeze or stridor
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), (Murmur: No(t)
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Very poor air movt. Insp + exp wheezes.
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Pitting edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: purposeful
   Labs / Radiology
   8.5 g/dL
   476 K/uL
   252 mg/dL
   0.9 mg/dL
   28 mEq/L
   5.0 mEq/L
   38 mg/dL
   106 mEq/L
   142 mEq/L
   27.8 %
   17.4 K/uL
        [image002.jpg]
                             [**2104-6-11**]  05:09 AM
                             [**2104-6-11**]  07:25 AM
                             [**2104-6-12**]  04:59 AM
                             [**2104-6-12**]  02:17 PM
                             [**2104-6-12**]  10:46 PM
                             [**2104-6-13**]  12:46 AM
                             [**2104-6-13**]  04:31 AM
                             [**2104-6-14**]  04:00 AM
   WBC
   21.6
   18.4
   16.6
   17.4
   Hct
   27.5
   27.7
   28.6
   28.3
   27.4
   27.8
   Plt
   593
   574
   476
   476
   Cr
   1.5
   1.2
   1.2
   0.9
   TCO2
   30
   32
   Glucose
   164
   166
   220
   252
   Other labs: PT / PTT / INR:14.1/24.3/1.2, CK / CKMB / Troponin-T:206//,
   ALT / AST:58/64, Alk Phos / T Bili:324/0.4, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:4.2 %, Mono:3.7 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:451 IU/L, Ca++:10.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.3 mg/dL
   Micro: neg
   Assessment and Plan
   69 y/o F w/ dm, hyperlipidemia, schizoaffective d/o s/p fall
   transferred to ICU for hypoxemia, resp distress.
   Found to have  R breast mass with axillary nodes,  rib fx (lytic
   lesions) and liver mets. Liver biopsy prelim + for breast Ca.
   Respiratory status remains tenuous , likely multifactorial, but
   continues to havce high A-a gradient, cannot r/o lymphangitic spread of
   cancer. Today, is well compensated for ongoing CO2 retention, but in
   altered mental status.
   # Resp distress: worsened this AM
   Appears to be multifactorial:  no ev of pe on cta. Has COPD, TBM (not
   amenable to Rx in acute setting), obesity, OSA,  known restrictive lung
   disease, likely lymphangitic spread of Ca (no way to diagnose),
   macroglossia.
   ? neuromuscular weakness from paraneoplastic syndrome (though w only
   min CO2 elevation) ? diaphragmatic involvement (hard to assess abd movt
   due to distention)
   ? splinting from rib f x, chest pain likely contributing
   Concerned also for possible lymphangitic spread from what appears to be
   advanced malignancy, (though not obvious per recent ct chest)
   Increased CO2 retention with altered mental status.
   Will start bipap today and f/u mental status/VBG. Continue nebs. Switch
   to iv steroids, equivalent amount.
   -- hob elevated to assist with breathing and abd distention/restriction
   -- morphine for rib pain as splinting likely contribtuing
   # Onc--Breast mass, likely metastatic based on radiologic findings.
   Head ct neg for mets. Prelim path on liver bx + mets breast Ca.
   tumor markers elevated
   Palliative service following
   Onc c/s today.
    # ARF
   Pre-renal
> cr improving with hydration
   avoid nsaids
   #  Leukocytosis/ uti
   Empiric Rx with Cipro X 7 days (foley) for UTI
   Remains af
   Steroids likely contributing.
   #  Sternal pain: likely  from bony mets/ rib fx
   Hold nsaids given renal fx
   Morphine for pain.
   Palliative care following.
   #abnl LFTs: likely [**2-23**] liver and bone mets,
   trending
   #  DM: NPH increased, RSSI
   On steroids
   # HTN: lisinopril restarted today
   # Psych: continue outpt meds.
   ICU Care
   Nutrition: taking well po
   Glycemic Control:  adjusting
   Lines:
   18 Gauge - [**2104-6-10**] 03:43 PM
   20 Gauge - [**2104-6-10**] 03:44 PM
   Prophylaxis:
   DVT: sq hep, boots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments: Multidisciplinary meeting next week.
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent: 35

2104-06-15 07:24:00 Physician Resident Progress Note
Chief Complaint: Respiratory Distress
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2104-6-14**] 10:03 AM
 NON-INVASIVE VENTILATION - STOP [**2104-6-14**] 03:24 PM
   ONC consulted and are considering adding chemo if we think she has
   lymphangitic spread. Trialed her on BIPAP with good success, she perked
   up quite nicely. Added back lisinopril to her BP regimen. Switched
   prednisone to methylprednisolone for absorption issues.
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash; Nausea/[**Last Name (un) **]
   Sulfonamides
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2104-6-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-6-15**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-15**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 98 (87 - 106) bpm
   BP: 151/59(79) {104/40(57) - 151/93(96)} mmHg
   RR: 28 (8 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                    360 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    520 mL
   Urine:
                                                                  1,710 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,350 mL
                                                                   -520 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 91%
   ABG: 7.44/49/61/30/7
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: poor air movement, occasional wheezes
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   400 K/uL
   8.0 g/dL
   122 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.5 mEq/L
   31 mg/dL
   108 mEq/L
   145 mEq/L
   26.0 %
   16.4 K/uL
        [image002.jpg]
                             [**2104-6-11**]  05:09 AM
                             [**2104-6-11**]  07:25 AM
                             [**2104-6-12**]  04:59 AM
                             [**2104-6-12**]  02:17 PM
                             [**2104-6-12**]  10:46 PM
                             [**2104-6-13**]  12:46 AM
                             [**2104-6-13**]  04:31 AM
                             [**2104-6-14**]  04:00 AM
                             [**2104-6-14**]  11:40 AM
                             [**2104-6-15**]  04:39 AM
   WBC
   21.6
   18.4
   16.6
   17.4
   16.4
   Hct
   27.5
   27.7
   28.6
   28.3
   27.4
   27.8
   26.0
   Plt
   593
   574
   476
   476
   400
   Cr
   1.5
   1.2
   1.2
   0.9
   0.8
   TCO2
   30
   32
   34
   Glucose
   164
   166
   220
   252
   122
   Other labs: PT / PTT / INR:14.1/24.3/1.2, CK / CKMB / Troponin-T:206//,
   ALT / AST:58/64, Alk Phos / T Bili:324/0.4, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:4.2 %, Mono:3.7 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:451 IU/L, Ca++:10.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.9 mg/dL
   Imaging: CXR: Comparison is made to prior study performed a day
   earlier.
   Cardiac size is top normal. The aorta is tortuous. Bibasilar
   atelectasis and
   discoid atelectasis in the right upper lobe and left lower lobe are
   unchanged.
   There are no enlarging pleural effusions or pneumothorax.
   Microbiology: BCx: NGTD
   UCx: NGTD
   Assessment and Plan
   69F with new dx of metastatic breast CA presents with  multifactorial
   hypoxemia
   .
   1. Respiratory distress: Multifactorial: tracheobronchial malacia,
   restrictive/obstructive lung dz, OSA, abdominal distention, splinting
   from pain, possible lymphangitic spread of cancer to lung.  CT negative
   for PE, Echo negative for PFO.  Dedicated CT to evaluate TBM and
   lymphangitic spread was not optimal due to poor inspiratory effort,
   however, it did show multiple ?bony mets but no lymphangitic spread.
   Induced sputum for cytology was unsuccessful.  VBG today 7.32/67/39
   - Respiratory status is worsening.
   - At this time, plan for Bipap when sleeping, and overnight with
   NC/face mask during the day
   - Reposition patient
 OOB to chair daily, position on side when
   sleeping given abdominal pannus
   - Continue nebs, and no change in steroid dose for now
   - Aggressive bowel regimen
   - Pain control with morphine
   .
   2. UTI: To complete Cipro course tonight.
   .
   3. Breast mass: Preliminary pathology showing metastatic breast CA to
   the liver and bone.  CEA, CA 27.29 elevated, CA [**15**]-9 wnl.
   -Await final results of liver biopsy, likely tuesday
   -Will involve onc when there is a tissue dx
   -Palliative care following
   .
   4. Leukocytosis: in the setting of steroids, infectious w/u otherwise
   unrevealing, no fevers.
   -continue to monitor
   .
   5. Pain: per palliative care recs, getting IV morphine with good result
   -continue IV morphine, change tylenol to standing.
   .
   7. DM
   -Increased home regimen of NPH 78 qam, 42 qpm for increasing ISS needs
   during the day
   -ISS
   -monitor finger sticks closely today, encourage PO
   .
   8. HTN
   -Can restart lisinopril today as cr finally normalized
   .
   9. Schizoaffective d/o
   -home psych meds
   -keep in touch with outpatient SW and psychiatrist
   .
   10.  Nutrition: PO
s for now, will consider alternative nutrition
   tomorrow as not taking good PO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-6-10**] 03:43 PM
   20 Gauge - [**2104-6-10**] 03:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Consider call out to 7-[**Hospital Ward Name 203**] this PM

2104-06-15 07:51:00 Physician Attending Progress Note
Chief Complaint:  resp distress, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 y/o F w/ dm, hyperlipidemia, schizoaffective d/o s/p fall
   transferred to ICU for hypoxemia, resp distress.
    Found to have  large R breast mass with axillary nodes,  rib fx (lytic
   lesions) and liver lesions.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2104-6-14**] 10:03 AM
 NON-INVASIVE VENTILATION - STOP [**2104-6-14**] 03:24 PM
   Seen by Onc, would like to start chemo soon after family meeting given
   concern for lymphangitic spread in lungs causing hypoxemia.
   Steroids switched to iv due to malabsorption concerns.
   Added ACEi for HTN.
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash; Nausea/[**Last Name (un) **]
   Sulfonamides
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2104-6-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-6-15**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-15**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 98 (87 - 106) bpm
   BP: 151/59(79) {104/40(57) - 151/93(96)} mmHg
   RR: 28 (8 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                    360 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    520 mL
   Urine:
                                                                  1,710 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,350 mL
                                                                   -520 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 91%
   ABG: 7.44/49/61/30/7
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: Overweight / Obese, tachypneic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, no insp wheeze or stridor
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), (Murmur: No(t)
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Very poor air movt.  Wheezes improved.
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Pitting edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: purposeful
   Labs / Radiology
   8.0 g/dL
   400 K/uL
   122 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.5 mEq/L
   31 mg/dL
   108 mEq/L
   145 mEq/L
   26.0 %
   16.4 K/uL
        [image002.jpg]
                             [**2104-6-11**]  05:09 AM
                             [**2104-6-11**]  07:25 AM
                             [**2104-6-12**]  04:59 AM
                             [**2104-6-12**]  02:17 PM
                             [**2104-6-12**]  10:46 PM
                             [**2104-6-13**]  12:46 AM
                             [**2104-6-13**]  04:31 AM
                             [**2104-6-14**]  04:00 AM
                             [**2104-6-14**]  11:40 AM
                             [**2104-6-15**]  04:39 AM
   WBC
   21.6
   18.4
   16.6
   17.4
   16.4
   Hct
   27.5
   27.7
   28.6
   28.3
   27.4
   27.8
   26.0
   Plt
   593
   574
   476
   476
   400
   Cr
   1.5
   1.2
   1.2
   0.9
   0.8
   TCO2
   30
   32
   34
   Glucose
   164
   166
   220
   252
   122
   Other labs: PT / PTT / INR:14.1/24.3/1.2, CK / CKMB / Troponin-T:206//,
   ALT / AST:58/64, Alk Phos / T Bili:324/0.4, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:4.2 %, Mono:3.7 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:451 IU/L, Ca++:10.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.9 mg/dL
   CXR: pulm edema and discoid atelectasis
   Assessment and Plan
    69 y/o F w/ dm, hyperlipidemia, schizoaffective d/o s/p fall
   transferred to ICU for hypoxemia, resp distress.
   Found to have  R breast mass with axillary nodes,  rib fx (lytic
   lesions) and liver mets. Liver biopsy prelim + for breast Ca.
   Respiratory status remains tenuous , likely multifactorial, but
   continues to have high A-a gradient, cannot r/o lymphangitic spread of
   cancer.
   # Resp distress:
   Appears to be multifactorial:  no evidence of pe on cta. Has TBM (not
   amenable to Rx in acute setting), obesity, OSA, known restrictive lung
   disease, possibly lymphangitic spread of Ca, macroglossia.
   ? neuromuscular weakness from paraneoplastic syndrome (w  CO2
   elevation) ? diaphragmatic involvement (hard to assess abd movt due to
   distention)
   ? splinting from rib f x, chest pain likely contributing
   Concerned also for possible lymphangitic spread from what appears to be
   advanced malignancy, (though not obvious per recent ct chest)
   -- Improved with bipap yesterday. Will get her on a nightly and nap
   regimen.
   -- hob elevated to assist with breathing and abd distention/restriction
   -- continue but would start tapering iv steroids, nebs. Being treated
   for CO2 retention
   -- morphine for rib pain as splinting likely contribtuing, start low
   dose fentanyl patch
   -- Keep I/o neg due to pulm edema on CXR today, autodiuresing
   -- bowel regimen to decompress abdomen
   -- Oob to chair
   -- Multidisciplinary meeting for starting chemo next week
   # Onc--Breast mass, metastatic based on radiologic findings. Head ct
   neg for mets. Prelim path on liver bx + mets breast Ca. Tumor markers
   elevated. Onc c/s appreciated. Multidisciplinary meeting for starting
   chemo next week. There is suspicion for lymphangitic spread although no
   classic findings on CT.
   #  Leukocytosis/ uti
   - Empiric Rx with Cipro X 7 days (foley) for UTI, last day today
   - Remains afebrile
   - Steroids likely contributing
   #  DM: NPH increased, Riss
   On steroids
   # abn LFTs;
   Likely due to mets
   # HTN: lisinopril restarted yesterday, follow
   # Psych: continue outpt meds.
   ICU Care
   Nutrition: taking po
   Glycemic Control:  adjusting
   Lines:
   18 Gauge - [**2104-6-10**] 03:43 PM
   20 Gauge - [**2104-6-10**] 03:44 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments: Multidisciplinary meeting next week reg chemo
   for Ca breast
   Code status: DNR / DNI
   Disposition : call out to 7S if beds available
   Total time spent:

2104-06-16 07:26:00 Physician Resident Progress Note
Chief Complaint: Hypoxemia
   24 Hour Events:
 EKG - At [**2104-6-15**] 01:42 PM
 ULTRASOUND - At [**2104-6-15**] 04:11 PM
   - Came off BiPap in morning, but did not tolerate well for more than
   several hours, so restarted BiPap early afternoon at 14/6, 6L NC.
   - Previous Echo with "consolidating pericardial effusion" likely
   malignant (no tamponade) - checked pulsus - 16mmHg, likely [**2-23**] to COPD,
   OSA, Obesity, as not clinically in tamponade.  EKG unchanged but with
   mildly low voltage and minimal electrical alternans.  Plan for Echo
   when next available.
   - Sats not improving substantially with increased fiO2 -> likely from
   air leak, but ?shunt -> repeat TTE with bubble study.
   - gave dose of lovenox yesterday in setting of hypoxia for ? multiple
   small PE, LENI's done overnight negative.
   - Oncology/ICU team to have family meeting at 11AM today for discussion
   of plan of care - ?lymphangitic spread will determine chemotherapy.
   - Added on TSH/BNP to AM labs -> TSH normal, BNP mildly improved -
   400's
   - Sent Ua/UCx for low grade Ax temp and visible urine sediment.
   - Will need to discuss nutrition today as not taking PO's at all.
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash; Nausea/[**Last Name (un) **]
   Sulfonamides
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2104-6-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-6-15**] 12:01 PM
   Enoxaparin (Lovenox) - [**2104-6-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-16**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.9
   HR: 87 (87 - 112) bpm
   BP: 131/59(77) {97/42(56) - 169/75(89)} mmHg
   RR: 20 (18 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    171 mL
                                                                    128 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                     51 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    510 mL
   Urine:
                                                                  1,755 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,584 mL
                                                                   -383 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///35/
   Physical Examination
   General Appearance: tachypneic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : poor airflow, no wheezes,
   rales, ronchi anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   454 K/uL
   8.4 g/dL
   72 mg/dL
   0.7 mg/dL
   35 mEq/L
   4.0 mEq/L
   27 mg/dL
   109 mEq/L
   148 mEq/L
   26.5 %
   16.4 K/uL
        [image002.jpg]
                             [**2104-6-11**]  07:25 AM
                             [**2104-6-12**]  04:59 AM
                             [**2104-6-12**]  02:17 PM
                             [**2104-6-12**]  10:46 PM
                             [**2104-6-13**]  12:46 AM
                             [**2104-6-13**]  04:31 AM
                             [**2104-6-14**]  04:00 AM
                             [**2104-6-14**]  11:40 AM
                             [**2104-6-15**]  04:39 AM
                             [**2104-6-16**]  04:42 AM
   WBC
   18.4
   16.6
   17.4
   16.4
   16.4
   Hct
   27.7
   28.6
   28.3
   27.4
   27.8
   26.0
   26.5
   Plt
   [**Telephone/Fax (3) 713**]00
   454
   Cr
   1.2
   1.2
   0.9
   0.8
   0.7
   TCO2
   30
   32
   34
   Glucose
   166
   220
   252
   122
   72
   Other labs: PT / PTT / INR:14.1/24.3/1.2, CK / CKMB / Troponin-T:206//,
   ALT / AST:58/64, Alk Phos / T Bili:324/0.4, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:4.2 %, Mono:3.7 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:451 IU/L, Ca++:10.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.6 mg/dL
   Fluid analysis / Other labs: - VBG: 7.55/41/175
   - VBG: 7.43/54/65
   Imaging: CXR:There is no interval change in the cardiomediastinal
   silhouette with moderate cardiac enlargement and mediastinal widening,
   related to extensive amount of mediastinal fat. There is also no change
   in bilateral linear opacities consistent with atelectasis. No
   appreciable pleural effusion is demonstrated as well as there is no
   pneumothorax. Right rib fractures are unchanged in appearance.
   .
   USD:IMPRESSION: No DVT in both lower extremities.
   Microbiology: BCx: NGTD
   UCx: NGTD
   Assessment and Plan
   69F with new dx of metastatic breast CA presents with  multifactorial
   hypoxemia
   .
   1. Respiratory distress: Multifactorial: tracheobronchial malacia,
   restrictive/obstructive lung dz, OSA, abdominal distention, splinting
   from pain, possible lymphangitic spread of cancer to lung.  CT negative
   for PE, Echo w/o bubble study.  Dedicated CT to evaluate TBM and
   lymphangitic spread was not optimal due to poor inspiratory effort,
   however, it did show multiple ?bony mets but no lymphangitic spread.
   Induced sputum for cytology was unsuccessful.  VBG today 7.32/67/39
   - Respiratory status is improved this AM after 18 hours Bipap yesterday
 continue BiPap overnight, and NC/face tent during the day
   - Started lovenox yesterday empirically but will d/c today as negative
   CTA and negative LENI.
   - Continue to keep net out 500-1L daily.
   - At this time, plan for Bipap when sleeping, and overnight with
   NC/face mask during the day
   - Reposition patient
 OOB to chair daily, position on side when
   sleeping given abdominal pannus
   - Continue nebs, and taper steroids today given COPD is ?diagnosis and
   patient w/o wheezing on exam for 48 hours.
   - Aggressive bowel regimen
   - Pain control with morphine
   .
   2. Breast mass: Preliminary pathology showing metastatic breast CA to
   the liver and bone.  CEA, CA 27.29 elevated, CA [**15**]-9 wnl.
   -Await final results of liver biopsy, likely tuesday
   -Family meeting today at 11am to discuss goals of care.  No hard
   evidence for lymphangitis spread of tumor and given tenuous status will
   likely opt for normal chemotherapy rather than aggressive chemo.
   -Palliative care following
   .
   3. Leukocytosis: in the setting of steroids, infectious w/u otherwise
   unrevealing, no fevers.
   - Ua dirty, but with few leuk's and WBC's. -> completed course of cipro
   yesterday.
   -continue to monitor
   .
   4. Pain: per palliative care recs, getting IV morphine with good result
   -continue IV morphine, tylenol standing.
   .
   5. DM
   -Increased home regimen of NPH 78 qam, 42 qpm for increasing ISS needs
   during the day
   -ISS
   -monitor finger sticks closely today, encourage PO
   - give 1/2 dose while NPO.
   .
   6. HTN
   -on lisinopril.
   .
   7. Schizoaffective d/o
   -home psych meds
   -keep in touch with outpatient SW and psychiatrist
   .
   8.  Nutrition: PO
s for now, will consider alternative nutrition
   tomorrow as not taking good PO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-6-15**] 11:18 PM
   Prophylaxis:
   DVT: heparin SQ -> once lovenox d/c
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU for now

2104-06-16 07:52:00 Physician Attending Progress Note
Chief Complaint: resp distress, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   team for key portions of the services provided.  I agree with his / her
   note above, including assessment and plan.
   HPI:
   69 y/o F w/ dm, hyperlipidemia, schizoaffective d/o s/p fall
   transferred to ICU for hypoxemia, resp distress.
   Found to have  large R breast mass with axillary nodes,  rib fx (lytic
   lesions) and liver lesions.
   24 Hour Events:
 EKG - At [**2104-6-15**] 01:42 PM
 ULTRASOUND - At [**2104-6-15**] 04:11 PM
   Resp distress improved with bipap. Concerned about worsening shunt
   fraction, ? PE inspite of neg CTA, ? PFO, ? bipap leak. Pulses 16
   yesterday, small pericardial effusion on prior TTE, needs repeat. Not
   hypotensive or tachycardic. Started on full dose lovenox regardless,
   but Lenis neg. TSH nl, BNP improved. Low grade axillary temps, UA sent.
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash; Nausea/[**Last Name (un) **]
   Sulfonamides
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2104-6-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-6-15**] 12:01 PM
   Enoxaparin (Lovenox) - [**2104-6-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-16**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 87 (87 - 112) bpm
   BP: 131/59(77) {97/42(56) - 169/75(89)} mmHg
   RR: 20 (18 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    171 mL
                                                                    128 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                     51 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    510 mL
   Urine:
                                                                  1,755 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,584 mL
                                                                   -383 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///35/
   Physical Examination
   General Appearance: Overweight / Obese, tachypneic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, no insp wheeze or stridor
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), (Murmur: No(t)
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Very poor air movt.  Wheezes improved.
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Pitting edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: purposeful
   Labs / Radiology
   8.4 g/dL
   454 K/uL
   72 mg/dL
   0.7 mg/dL
   35 mEq/L
   4.0 mEq/L
   27 mg/dL
   109 mEq/L
   148 mEq/L
   26.5 %
   16.4 K/uL
        [image002.jpg]
                             [**2104-6-11**]  07:25 AM
                             [**2104-6-12**]  04:59 AM
                             [**2104-6-12**]  02:17 PM
                             [**2104-6-12**]  10:46 PM
                             [**2104-6-13**]  12:46 AM
                             [**2104-6-13**]  04:31 AM
                             [**2104-6-14**]  04:00 AM
                             [**2104-6-14**]  11:40 AM
                             [**2104-6-15**]  04:39 AM
                             [**2104-6-16**]  04:42 AM
   WBC
   18.4
   16.6
   17.4
   16.4
   16.4
   Hct
   27.7
   28.6
   28.3
   27.4
   27.8
   26.0
   26.5
   Plt
   [**Telephone/Fax (3) 713**]00
   454
   Cr
   1.2
   1.2
   0.9
   0.8
   0.7
   TCO2
   30
   32
   34
   Glucose
   166
   220
   252
   122
   72
   Other labs: PT / PTT / INR:14.1/24.3/1.2, CK / CKMB / Troponin-T:206//,
   ALT / AST:58/64, Alk Phos / T Bili:324/0.4, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:4.2 %, Mono:3.7 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:451 IU/L, Ca++:10.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.6 mg/dL
   UA: + leuks, whites
   Assessment and Plan
    69 y/o F w/ dm, hyperlipidemia, schizoaffective d/o s/p fall
   transferred to ICU for hypoxemia, resp distress.
   Found to have  R breast mass with axillary nodes,  rib fx (lytic
   lesions) and liver mets. Liver biopsy prelim + for breast Ca.
   Respiratory status remains tenuous , likely multifactorial, but
   continues to have high A-a gradient, cannot r/o lymphangitic spread of
   cancer.
   # Resp distress:
   Appears to be multifactorial:  no evidence of PE on CTA and neg LENIs.
   Has TBM (not amenable to Rx in acute setting), obesity, OSA, known
   restrictive lung disease, possibly lymphangitic spread of Ca,
   macroglossia.
   ? neuromuscular weakness from paraneoplastic syndrome (w  CO2
   elevation) ? diaphragmatic involvement (hard to assess abd movt due to
   distention)
   ? splinting from rib f x, chest pain likely contributing
   Concerned also for possible lymphangitic spread from what appears to be
   advanced malignancy, (though not obvious per recent CT chest albeit
   poor study)
   ? PE inspite of neg CTA and LENIs.
   ? PFO inspite of no e/o R heart dysfunction
   -- Improved with bipap yesterday. Will get her on a nightly and nap
   regimen.
   -- Autodiuresing, keep I/O neg
   -- bowel regimen to decompress abdomen
   -- hob elevated to assist with breathing and abd
   distention/restriction, oob to chair
   -- continue but would start tapering iv steroids, nebs. Being treated
   for CO2 retention, w/o e/o COPD, likely due to OSA
   -- morphine for rib pain as splinting likely contribtuing, started low
   dose fentanyl patch
   -- D/c lovenox
   -- TTE with bubble to eval for pericardial effusion, pulses and PFO
   next week
   -- Multidisciplinary meeting for starting chemo today
   # Onc--Breast mass, metastatic based on radiologic findings. Head ct
   neg for mets. Prelim path on liver bx + mets breast Ca. Tumor markers
   elevated. Onc c/s appreciated. Multidisciplinary meeting for starting
   chemo next week. There is suspicion for lymphangitic spread although no
   classic findings on CT.
   #  Leukocytosis/ simmering, dirty UA, low grade fever, check culture
   -          Completed 7 day course of Cipro
   -          Steroids likely contributing to leukocytosis
   -          D/c foley
   -          Abx if spikes
   #  DM: NPH increased, Riss
   On steroids, start slow taper
   # abn LFTs:
   Likely due to mets, trend
   # HTN: lisinopril restarted, follow
   # Psych: continue outpt meds
   ICU Care
   Nutrition: advance po today with bipap off, push on bowel regimen
   Glycemic Control:  adjusting
   Lines:
   20 Gauge - [**2104-6-15**] 11:18 PM
   Prophylaxis:
   DVT: restart sq heparin, stop full anticoag
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:  Multidisciplinary meeting today with pt, Dr
   [**Name (NI) 714**] from Onc, pt HCP [**Name (NI) 670**] and pts long standing psychiatrist. She
   would like to pursue chemo understanding risks/benefits
 but if she
   precipitiously declines remains DNR/DNI
   Code status: DNR / DNI
   Disposition : ICU for hypoxemic resp distress

2104-06-17 07:44:00 Physician Resident Progress Note
24 Hour Events:
   -Family meeting held with friends and psychiatrist, where the decision
   was made to try one round of chemotherapy, and remain DNR/DNI.
   Oncology will write for it tomorrow.
   -She is in for an echo with bubble study to eval for PFO given unclear
   etiology for SOB
   -Will need a staging CT torso and bone scan
   -Ate well, no need for parenteral nutrition
   -tapering steroids
   -gave lasix overnight for diuresis
   Currently, limited in her speaking, very sleepy. Denies pain or SOB
   feeling.
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash; Nausea/[**Last Name (un) **]
   Sulfonamides
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2104-6-16**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2104-6-17**] 05:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-17**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 87 (87 - 103) bpm
   BP: 104/45(59) {98/38(54) - 150/78(94)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,288 mL
                                                                    580 mL
   PO:
                                                                  1,160 mL
                                                                     80 mL
   TF:
   IVF:
                                                                    128 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                      0 mL
   Urine:
                                                                  1,670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -383 mL
                                                                    580 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: ///36/
   Physical Examination
   General: on BiPAP and sleepy and minimally responsive
 moving around
   in bed
   HEENT: MMM, EOMI, small but equal pupils
   CV: RRR no m/r/g appreciated
   Lungs: poor air movement. No wheezing appreciated. No crackles
   Abdomen: +BS, obese, non-tender
   Skin: diaphoretic
   Labs / Radiology
   486 K/uL
   8.7 g/dL
   86 mg/dL
   0.8 mg/dL
   36 mEq/L
   4.0 mEq/L
   29 mg/dL
   103 mEq/L
   143 mEq/L
   27.7 %
   14.1 K/uL
        [image002.jpg]
   HCT was26.5 yesterday and WBC 16.4 yesterday;  today Ca++:9.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
                             [**2104-6-12**]  02:17 PM
                             [**2104-6-12**]  10:46 PM
                             [**2104-6-13**]  12:46 AM
                             [**2104-6-13**]  04:31 AM
                             [**2104-6-14**]  04:00 AM
                             [**2104-6-14**]  11:40 AM
                             [**2104-6-15**]  04:39 AM
                             [**2104-6-16**]  04:42 AM
                             [**2104-6-16**]  02:35 PM
                             [**2104-6-17**]  06:24 AM
   WBC
   16.6
   17.4
   16.4
   16.4
   14.1
   Hct
   28.6
   28.3
   27.4
   27.8
   26.0
   26.5
   27.7
   Plt
   476
   476
   400
   454
   486
   Cr
   1.2
   0.9
   0.8
   0.7
   0.8
   TCO2
   32
   34
   Glucose
   220
   252
   122
   72
   138
   86
   Other labs: PT / PTT / INR:13.1/31.6/1.1, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:4.2 %, Mono:3.7 %, Eos:0.0 %,
   CXR: my read, similar no acute change from prior- small lung volumes,
   large heart.
   Assessment and Plan
   69F with new dx of metastatic breast CA presents with  multifactorial
   hypoxemia
   .
   #. Respiratory distress: Multifactorial: tracheobronchial malacia,
   restrictive/obstructive lung dz, OSA, abdominal distention, splinting
   from pain, possible lymphangitic spread of cancer to lung.  CT negative
   for PE, Echo w/o bubble study pending for today to evaluate for
   shunting (significant A-a gradient on blood gases).  Dedicated CT to
   evaluate TBM and lymphangitic spread was not optimal due to poor
   inspiratory effort, however, it did show multiple bony mets but no
   obvious sign of lymphangitic spread.  Induced sputum for cytology was
   unsuccessful.
   - Respiratory status is improved somewhat with Bipap
 continue BiPap
   overnight, and NC/face tent during the day
   ---currently ABG done shows 7.43/61/81 on BiPAP 14/8 on 6L. pH normal
   suggests this is not an acute rise in CO2- (venous gases showed CO2 in
   the mid 50 range recently). Did not go on BiPAP until 5am today for
   unclear reasons.  Will write to keep BiPAP on from at least 10pm until
   7am daily.
   - Continue to keep net out 500-1L daily.
   - Reposition patient
 OOB to chair daily, position on side when
   sleeping given abdominal pannus
   - Continue nebs, and taper steroids today given COPD is ?diagnosis and
   patient w/o wheezing on exam for 48 hours.
   - Aggressive bowel regimen to help limit abdominal distention
   - Pain control with morphine which will also help with respirations
   - per meeting yesterday, will start chemo today to see if this will
   help repiratory status given clinical question of lymphangetic spread
   of cancer (see below).
   .
   #. Breast mass: Preliminary pathology showing metastatic breast CA to
   the liver and bone.  CEA, CA 27.29 elevated, CA [**15**]-9 wnl.
   -Await final results of liver biopsy, likely today or tomorrow- this
   will confirm hormone responsiveness of tumor
   -Meeting yesterday with patient, patient
s HCP, [**Name (NI) 670**], and patient
   outpt psychiatrist Dr. [**Last Name (STitle) 669**] along with ICU team members and oncology
   team. Options for chemotherapy were given and patient decided to try a
   round to chemotherapy to see if it might help her respiratory status.
   She understands this is palliative chemo to contain tumor and not
   curative. She understands there is a risk of infection and worsening
   respiratory status initially. She still wishes to remain DNR/DNI and
   does not want to even temporarily change her code status.  Chemotherapy
   will likely begin today per oncology team
 Dr. [**Last Name (STitle) 714**] [**Name (STitle) 715**].
   -Palliative care following and appreciate recs
   .
   #. Leukocytosis: in the setting of steroids, infectious w/u otherwise
   unrevealing, no fevers.
   - Ua dirty, but with few leuk's and WBC's. -> completed course of cipro
   yesterday.
   -continue to monitor and follow up cultures
   .
   #. Pain: per palliative care recs, getting IV morphine with good result
   -continue IV morphine, tylenol standing for bone pain
   .
   #. DM- insulin dependent
   -Increased home regimen of NPH 78 qam, 42 qpm for increasing ISS needs
   during the day
   -ISS
   -monitor finger sticks closely today, encourage PO
   - give 1/2 dose while NPO.
   .
   #. HTN
   -on lisinopril.
   .
   #. Schizoaffective d/o
   -home psych meds
   -keep in touch with outpatient SW and psychiatrist
   .
   #.  Nutrition: PO
s for now.
   ICU Care
   Nutrition: PO intake
   Glycemic Control:  insulin as described above
   Lines:
   20 Gauge - [**2104-6-15**] 11:18 PM
   22 Gauge - [**2104-6-16**] 09:00 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:  pantoprazole
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU for now

2104-06-18 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2104-6-17**] 10:16 AM
   with bubble study
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash; Nausea/[**Last Name (un) **]
   Sulfonamides
   Unknown;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2104-6-17**] 06:42 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-6-18**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-18**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 90 (81 - 103) bpm
   BP: 116/50(65) {96/38(53) - 129/60(74)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,520 mL
                                                                     36 mL
   PO:
                                                                    920 mL
             TF:
   IVF:
                                                                  2,600 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    410 mL
   Urine:
                                                                    800 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,720 mL
                                                                   -375 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 88%
   ABG: 7.43/61/81.[**Numeric Identifier 218**]/31/12
   PaO2 / FiO2: 203
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   478 K/uL
   8.0 g/dL
   239 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.6 mEq/L
   35 mg/dL
   102 mEq/L
   139 mEq/L
   26.4 %
   14.5 K/uL
        [image002.jpg]
                             [**2104-6-13**]  12:46 AM
                             [**2104-6-13**]  04:31 AM
                             [**2104-6-14**]  04:00 AM
                             [**2104-6-14**]  11:40 AM
                             [**2104-6-15**]  04:39 AM
                             [**2104-6-16**]  04:42 AM
                             [**2104-6-16**]  02:35 PM
                             [**2104-6-17**]  06:24 AM
                             [**2104-6-17**]  08:05 AM
                             [**2104-6-18**]  03:22 AM
   WBC
   16.6
   17.4
   16.4
   16.4
   14.1
   14.5
   Hct
   27.4
   27.8
   26.0
   26.5
   27.7
   26.4
   Plt
   476
   476
   400
   454
   486
   478
   Cr
   1.2
   0.9
   0.8
   0.7
   0.8
   0.9
   TCO2
   32
   34
   42
   Glucose
   220
   252
   122
   72
   138
   86
   239
   Other labs: PT / PTT / INR:13.1/31.6/1.1, CK / CKMB / Troponin-T:206//,
   ALT / AST:58/64, Alk Phos / T Bili:324/0.4, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:4.2 %, Mono:3.7 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.3 g/dL, LDH:451 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   69F with new dx of metastatic breast CA presents with  multifactorial
   hypoxemia
   .
   #. Respiratory distress: Multifactorial: tracheobronchial malacia,
   restrictive/obstructive lung dz, OSA, abdominal distention, splinting
   from pain, possible lymphangitic spread of cancer to lung.  CT negative
   for PE, Echo w/o bubble study pending for today to evaluate for
   shunting (significant A-a gradient on blood gases).  Dedicated CT to
   evaluate TBM and lymphangitic spread was not optimal due to poor
   inspiratory effort, however, it did show multiple bony mets but no
   obvious sign of lymphangitic spread.  Induced sputum for cytology was
   unsuccessful.
   - Respiratory status is improved somewhat with Bipap
 continue BiPap
   overnight, and NC/face tent during the day
   ---currently ABG done shows 7.43/61/81 on BiPAP 14/8 on 6L. pH normal
   suggests this is not an acute rise in CO2- (venous gases showed CO2 in
   the mid 50 range recently). Did not go on BiPAP until 5am today for
   unclear reasons.  Will write to keep BiPAP on from at least 10pm until
   7am daily.
   - Continue to keep net out 500-1L daily.
   - Reposition patient
 OOB to chair daily, position on side when
   sleeping given abdominal pannus
   - Continue nebs, and taper steroids today given COPD is ?diagnosis and
   patient w/o wheezing on exam for 48 hours.
   - Aggressive bowel regimen to help limit abdominal distention
   - Pain control with morphine which will also help with respirations
   - per meeting yesterday, will start chemo today to see if this will
   help repiratory status given clinical question of lymphangetic spread
   of cancer (see below).
   .
   #. Breast mass: Preliminary pathology showing metastatic breast CA to
   the liver and bone.  CEA, CA 27.29 elevated, CA [**15**]-9 wnl.
   -Await final results of liver biopsy, likely today or tomorrow- this
   will confirm hormone responsiveness of tumor
   -Meeting yesterday with patient, patient
s HCP, [**Name (NI) 670**], and patient
   outpt psychiatrist Dr. [**Last Name (STitle) 669**] along with ICU team members and oncology
   team. Options for chemotherapy were given and patient decided to try a
   round to chemotherapy to see if it might help her respiratory status.
   She understands this is palliative chemo to contain tumor and not
   curative. She understands there is a risk of infection and worsening
   respiratory status initially. She still wishes to remain DNR/DNI and
   does not want to even temporarily change her code status.  Chemotherapy
   will likely begin today per oncology team
 Dr. [**Last Name (STitle) 714**] [**Name (STitle) 715**].
   -Palliative care following and appreciate recs
   .
   #. Leukocytosis: in the setting of steroids, infectious w/u otherwise
   unrevealing, no fevers.
   - Ua dirty, but with few leuk's and WBC's. -> completed course of cipro
   yesterday.
   -continue to monitor and follow up cultures
   .
   #. Pain: per palliative care recs, getting IV morphine with good result
   -continue IV morphine, tylenol standing for bone pain
   .
   #. DM- insulin dependent
   -Increased home regimen of NPH 78 qam, 42 qpm for increasing ISS needs
   during the day
   -ISS
   -monitor finger sticks closely today, encourage PO
   - give 1/2 dose while NPO.
   .
   #. HTN
   -on lisinopril.
   .
   #. Schizoaffective d/o
   -home psych meds
   -keep in touch with outpatient SW and psychiatrist
   .
   #.  Nutrition: PO
s for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2104-6-16**] 09:00 AM
   20 Gauge - [**2104-6-17**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2104-06-18 12:37:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2104-6-17**] 10:16 AM
   with bubble study
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash; Nausea/[**Last Name (un) **]
   Sulfonamides
   Unknown;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2104-6-17**] 06:42 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-6-18**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-18**] 12:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 86 (81 - 97) bpm
   BP: 129/56(71) {96/38(53) - 129/60(74)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,520 mL
                                                                     85 mL
   PO:
                                                                    920 mL
             TF:
   IVF:
                                                                  2,600 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    635 mL
   Urine:
                                                                    800 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,720 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, axillary adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Obese
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   478 K/uL
   239 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.6 mEq/L
   35 mg/dL
   102 mEq/L
   139 mEq/L
   26.4 %
   14.5 K/uL
        [image002.jpg]
                             [**2104-6-13**]  12:46 AM
                             [**2104-6-13**]  04:31 AM
                             [**2104-6-14**]  04:00 AM
                             [**2104-6-14**]  11:40 AM
                             [**2104-6-15**]  04:39 AM
                             [**2104-6-16**]  04:42 AM
                             [**2104-6-16**]  02:35 PM
                             [**2104-6-17**]  06:24 AM
                             [**2104-6-17**]  08:05 AM
                             [**2104-6-18**]  03:22 AM
   WBC
   16.6
   17.4
   16.4
   16.4
   14.1
   14.5
   Hct
   27.4
   27.8
   26.0
   26.5
   27.7
   26.4
   Plt
   476
   476
   400
   454
   486
   478
   Cr
   1.2
   0.9
   0.8
   0.7
   0.8
   0.9
   TCO2
   32
   34
   42
   Glucose
   220
   252
   122
   72
   138
   86
   239
   Other labs: PT / PTT / INR:13.1/31.6/1.1, CK / CKMB / Troponin-T:206//,
   ALT / AST:58/64, Alk Phos / T Bili:324/0.4, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:4.2 %, Mono:3.7 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.3 g/dL, LDH:451 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   Respiratory Failure
   Breast Cancer
   Schizophrenia
   Increased WBC
   UTI
   Steroid therapy
   Much more alert and interactive this morning.  Her breathing seems much
   more comfortable.  She is getting dexamethasone as part of her
   chemotherapy so we will d/c as part of "COPD" care. Not clear how much
   obstructive lung disease she truly has - much of this is
   obesity-hypoventilation.
   ICU Care
   Nutrition:
   Comments: Full diet
   Glycemic Control:  Regular insulin sliding scale, Comments: Also on NPH
   Lines:
   22 Gauge - [**2104-6-16**] 09:00 AM
   20 Gauge - [**2104-6-17**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: